US04150130
EXAMPLE 1 - Preparation of 5,6-Dihydro-5-oxo-1,4-dithiino(2,3-d)-pyridazine-2,3-dicarbonitrile (Compound 1)
To a stirred solution of 20 g (0.1 mole) disodiumdimercaptomaleonitrile in 250 ml of DMF was added 16.5 g (0.1 mole) of 4,5-dichloro-3-pyridiazone. The reaction mixture was stirred at room temperature (approximately 20° C.) for 0.25 hours and was thereafter poured with stirring into 1.5 liters of water. The resulting mixture was allowed to stand for four hours during which time a brown precipitate slowly formed. This precipitate was separated by filtration, washed with water, and dried in vacuo to yield 10.2 g (43% yield from the pyridiazone) of a brown solid, m.p. (decomposition) 240°-260° C.

reactant | disodiumdimercaptomaleonitrile | 0.1 mole, 20 g | S/C(=C(/C#N)\S)/C#N.[Na].[Na]
reactant | water | 1.5 liters | O | H2O
solvent | DMF | 250 ml | CN(C)C=O | C3H7NO
product | 5,6-Dihydro-5-oxo-1,4-dithiino(2,3-d)-pyridazine-2,3-dicarbonitrile | 43% yield | O=C1C2=C(C=NN1)SC(=C(S2)C#N)C#N | C8H2N4OS2
